US05679806
About 49.0 mg of genistin were refluxed in 15 ml 4N HCl for five hours at 105°±5° C. About 22.9 mg of genistein was obtained with about 75% recovery. About 13 mg genistein from the previous step was extracted twice with 50 ml diethyl ether. The extracts were combined, and evaporated to dryness. The solids obtained were crystallized from 2 ml of a solution made from 3 parts ethanol and 2 parts water. About 8.2 mg of the genistein crystal was obtained with 63% recovery and about 99% purity.

reactant | genistin | 49.0 mg | C1=CC(=CC=C1C2=COC=3C=C(C=C(C3C2=O)O)O[C@H]4[C@@H]([C@H]([C@@H]([C@H](O4)CO)O)O)O)O | C21H20O10
solvent | HCl | 4N, 15 ml | Cl | ClH
product | genistein | 22.9 mg | C1=CC(=CC=C1C2=COC=3C=C(C=C(C3C2=O)O)O)O | C15H10O5
